* Nodes are labeled in the second image and used to identify connections
VDD 3 0 DC 5V
I1 3 2 DC 1mA
* M1 is an NMOS: drain connected to net 2, gate to Vb, source to net (Vin and Rs)
M1 2 Vb Vin 0 NMOS
* M2 is a PMOS: drain connected to Vout and net 2, gate to net 2, source to ground
M2 Vout 2 0 0 PMOS
* Resistor Rs connected between Vin and net linked to M1
Rs Vin Vin_net 10k
* Define nodes
? Missing component
Vb 2 0 DC 1.5V
* Analysis
.tran 1n 100n
.end
